US04979978
Preparation of 3-Methoxy-12H-dibenzo-[d,g][1,3]dioxocin-6-carboxylic Acid
Methyl-3-methoxy-12H-dibenzo[d,g][1,3]-dioxocin-6-carboxylate (0.32 g, 1.07 mmol) was dissolved in 20 ml of tetrahydrofuran and 3.0 ml of 2 M sodium hydroxide was added. The mixture was stirred at ambient temperature overnight. It was then diluted with 20 ml of water and 50 ml of ether and the layers separated. The organic layer was extracted with water and the aqueous extract combined with the original aqueous layer. The resulting solution was acidified with 10 percent aqueous hydrochloric acid and then extracted with 4-25 ml portions of ether. The combined ether extracts were dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain the title compound as a yellow-white foamed solid amounting to 0.26 g (85 percent of theory) and melting at 149°-153° C. The proton nmr spectrum was consistent with the assigned structure.

reactant | Methyl-3-methoxy-12H-dibenzo[d,g][1,3]-dioxocin-6-carboxylate | 1.07 mmol, 0.32 g | COC(=O)C1OC2=C(CC3=C(O1)C=C(C=C3)OC)C=CC=C2 | C17H16O5
reactant | sodium hydroxide | 2 M, 3.0 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-Methoxy-12H-dibenzo-[d,g][1,3]dioxocin-6-carboxylic Acid | COC=1C=CC2=C(OC(OC3=C(C2)C=CC=C3)C(=O)O)C1 | C16H14O5
